US05013863
To a stirred solution of 0.05 g of lithium hydroxide monohydrate in 7.7 ml of water, is added a solution of 4.37 g of ethyl 3-aminopropyl(di-n-propyloxymethyl)phosphinate in 16.2 ml of ethanol. A slight exothermic reaction ensues and the reaction mixture becomes cloudy. A further 2 ml of water are added and the clear solution stirred at room temperature for 5 days. After this time the mixture is concentrated in vacuo at 55° and the residue redissolved in water and extracted with 3×10 ml of dichloromethane. The aqueous layer is again evaporated to dryness and the residue dissolved in 20 ml of water and treated with 0.51 ml of 85% phosphoric acid. After stirring overnight, the solid is removed by filtration. Evaporation of the filtrate and crystallisation of the residue from ethanol/ether affords 3-aminopropyl(di-n-propyloxymethyl)phosphinic acid, m.p. 223-225°, as a white solid.

reactant | lithium hydroxide monohydrate | 0.05 g | O.[OH-].[Li+]
reactant | ethyl 3-aminopropyl(di-n-propyloxymethyl)phosphinate | 4.37 g | NCCCP(OCC)(=O)C(OCCC)OCCC | C12H28NO4P
solvent | water | 7.7 ml | O | H2O
solvent | ethanol | 16.2 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 3-aminopropyl(di-n-propyloxymethyl)phosphinic acid | NCCCP(O)(=O)C(OCCC)OCCC | C10H24NO4P
